US05614633
A mixture of 120 mg of 6-cyano-4-trifluoromethanesulfonyloxy-2,2-bisfluoromethyl-2H-1-benzopyran, 87 mg of 2-trimethylstannylpyridine, 25.4 mg of tris-dibenzylidene acetone chloroform dipalladium (0), 12.8 mg of triphenylphosphine, 110 mg of lithium chloride and 6 ml of dry tetrahydrofuran was refluxed for 6.5 hours. After cooling, ether was added and the mixture was filtered using Celite. After the organic layer of the mother liquor was washed with water and dried, the solvent was distilled off. The resultant residue was purified using silica gel column chromatography (developing solution, CH2Cl2) to obtain 80 mg of oily 6-cyano-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran represented by the following formula.

reactant | 6-cyano-4-trifluoromethanesulfonyloxy-2,2-bisfluoromethyl-2H-1-benzopyran | 120 mg | C(#N)C=1C=CC2=C(C(=CC(O2)(CF)CF)OS(=O)(=O)C(F)(F)F)C1 | C13H8F5NO4S
reactant | 2-trimethylstannylpyridine | 87 mg | C[Sn](C1=NC=CC=C1)(C)C
reactant | triphenylphosphine | 12.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 110 mg | [Cl-].[Li+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 6-cyano-2,2-bisfluoromethyl-4-(2-pyridyl)-2H-1-benzopyran | 80 mg | C(#N)C=1C=CC2=C(C(=CC(O2)(CF)CF)C2=NC=CC=C2)C1 | C17H12F2N2O
